US06235771B1
In DMF (98 ml) was dissolved 4-bromo-3-chlorophenol (9.8 g), and to the solution were added at room temperature potassium carbonate (9.8 g), sodium iodide (7.8 g) and 2-chloroethylpropylether (7.8 ml). The mixture was stirred at 90° C. for 16 hours, cooled to room temperature, poured into water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was removed, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=8/1) to give 1-bromo-2-chloro-4-(2-propoxyethoxy)benzene (8.8 g).

reactant | 4-bromo-3-chlorophenol | 9.8 g | BrC1=C(C=C(C=C1)O)Cl | C6H4BrClO
reactant | potassium carbonate | 9.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 7.8 g | [I-].[Na+]
reactant | 2-chloroethylpropylether | 7.8 ml | ClCCOCCC | C5H11ClO
solvent | DMF | 98 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-bromo-2-chloro-4-(2-propoxyethoxy)benzene | 8.8 g | BrC1=C(C=C(C=C1)OCCOCCC)Cl | C11H14BrClO2
